US04886814
N-[2-(4-Carboxyphenyl)-1-methylethyl]-N-benzyl-2-hydroxy-2-(2-amino-thiazol-4-yl)ethanamine
13.6 ml (0.0136 mol) of 1N sodium hydroxide solution are added dropwise at room temperature to a solution of 1.5 g (0.0034 mol) of N-[2-(4-carbomethoxyphenyl)-1-methyl-ethyl]-N-benzyl-2-hydroxy-2-(2-aminothiazol-4-yl)ethanamine in dioxan/methanol=1:1 within 10 minutes, with stirring. After 1 hour 20 ml of water are added dropwise sufficiently slowly that a solution is always maintained. After 16 hours 13.5 ml (0.0136 mol) of 1N hydrochloric acid are added, and the mixture is extracted with methylene chloride which is dried over sodium sulphate and evaporated to dryness, and the resulting base is purified on a silica gel column using ethyl acetate/methanol=9:1.

reactant | sodium hydroxide | 0.0136 mol, 1N, 13.6 ml | [OH-].[Na+]
reactant | N-[2-(4-carbomethoxyphenyl)-1-methyl-ethyl]-N-benzyl-2-hydroxy-2-(2-aminothiazol-4-yl)ethanamine | 0.0034 mol, 1.5 g | C(=O)(OC)C1=CC=C(C=C1)CC(C)N(CC(C=1N=C(SC1)N)O)CC1=CC=CC=C1 | C23H27N3O3S
reactant | water | 20 ml | O | H2O
reactant | hydrochloric acid | 0.0136 mol, 1N, 13.5 ml | Cl | ClH
solvent | dioxan methanol | O1CCOCC1.CO
product | N-[2-(4-Carboxyphenyl)-1-methylethyl]-N-benzyl-2-hydroxy-2-(2-amino-thiazol-4-yl)ethanamine | C(=O)(O)C1=CC=C(C=C1)CC(C)N(CC(C=1N=C(SC1)N)O)CC1=CC=CC=C1 | C22H25N3O3S
